US06897224B2
3-[1-(5-Fluoro-2-hydroxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol
Analogously to Example 38, 395 mg (0.88 mmol) of 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol is reacted with 4.30 ml (4.3 mmol) of a 1 M boron tribromide solution in 8.0 ml of dichloromethane. After one hour at 0° C., the reaction is halted. The subsequent recrystallization from ethyl acetate, acetone and methanol yields 257 mg (67% of theory) of the product.

reactant | 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol | 0.88 mmol, 395 mg | FC=1C=CC(=C(C1)C1(CC1)CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)OC | C24H24F4N2O2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
product | 3-[1-(5-Fluoro-2-hydroxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol | FC=1C=CC(=C(C1)C1(CC1)CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)O | C23H22F4N2O2
